US05475015
1-(2-Methoxy-5-trifiuoromethylphenyl)-5-trifluoromethyl-1,3-dihydro-2H-benzim idazol-2-thione.
To an ice cooled suspension of N-(2-amino-4-trifluoromethylphenyl)-2-methoxy-5-trifluoromethylaniline, hydrochloride (3 mmol, 1.2 g) in dry methylenechloride (20 ml) is added triethylamine (9 mmol, 0.73 ml) and thiophosgene (3 mmol, 0.23 ml). The reaction mixture is stirred at room temperature overnight and poured into water. The mixture is extracted with methylenechloride and the organic phases are dried and concentrated in vacuo. The crude product is subjected to column chromatography using petroleum ether+ethylacetate (4+1) as eluent. The fractions containing the product are concentrated in vacuo yielding a yellow oil which solidifies upon treatment with petroleum ether, yielding the title compound as off white crystals, which were used without further purification.

reactant | N-(2-amino-4-trifluoromethylphenyl)-2-methoxy-5-trifluoromethylaniline, hydrochloride | 3 mmol, 1.2 g | Cl.NC1=C(C=CC(=C1)C(F)(F)F)NC1=C(C=CC(=C1)C(F)(F)F)OC
reactant | triethylamine | 9 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 3 mmol, 0.23 ml | C(=S)(Cl)Cl | CCl2S
reactant | water | O | H2O
solvent | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Methoxy-5-trifiuoromethylphenyl)-5-trifluoromethyl-1,3-dihydro-2H-benzim idazol-2-thione | COC1=C(C=C(C=C1)C(F)(F)F)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=S | C16H10F6N2OS
